US07238819B2
Isobutene/Isoprene Copolymerization
The methodology of Example 3 was repeated, except that 1.5 mL of isoprene was added to the reaction vessel prior to initiation. The mixture was allowed to stir at −78° C. for 10 minutes, before addition of methanol (10 mL) to terminate the reaction. The yield of copolymer was 5.5 g (Mn=104,000, Mw=203,000). The isoprene content in the rubber was 1.5 mol-percent.

reactant | isoprene | 1.5 mL | C=CC(C)=C | C5H8
solvent | methanol | 10 mL | CO | CH4O
product | Isobutene Isoprene | C=C(C)C.C=CC(C)=C | InChI=1S/C5H8.C4H8/c1-4-5(2)3;1-4(2)3/h4H,1-2H2,3H3;1H2,2-3H3
